** Name: SymmetricalOpAmp115

.MACRO SymmetricalOpAmp115 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=8e-6
mDiodeTransistorNmos2 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=10e-6 W=79e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=10e-6 W=95e-6
mDiodeTransistorPmos4 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=4e-6 W=29e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=14e-6
mNormalTransistorNmos6 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=10e-6 W=50e-6
mNormalTransistorNmos7 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=14e-6
mNormalTransistorNmos8 out2FirstStage ibias sourceNmos sourceNmos nmos4 L=2e-6 W=60e-6
mNormalTransistorNmos9 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=23e-6
mNormalTransistorNmos10 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=10e-6 W=79e-6
mNormalTransistorPmos11 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=4e-6 W=46e-6
mNormalTransistorPmos12 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=4e-6 W=104e-6
mNormalTransistorPmos13 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=4e-6 W=104e-6
mNormalTransistorPmos14 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=4e-6 W=46e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorPmos17 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=31e-6
mNormalTransistorPmos18 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=31e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp115

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 1.00001 mW
** Area: 4778 (mu_m)^2
** Transit frequency: 5.18901 MHz
** Transit frequency with error factor: 5.18851 MHz
** Slew rate: 8.86979 V/mu_s
** Phase margin: 74.4846°
** CMRR: 140 dB
** negPSRR: 65 dB
** posPSRR: 47 dB
** VoutMax: 4.41001 V
** VoutMin: 0.990001 V
** VcmMax: 5.12001 V
** VcmMin: 0.840001 V


** Expected Currents: 
** NormalTransistorNmos: 73.6111 muA
** NormalTransistorPmos: -14.0929 muA
** NormalTransistorPmos: -14.0939 muA
** NormalTransistorPmos: -14.0929 muA
** NormalTransistorPmos: -14.0939 muA
** NormalTransistorNmos: 28.1841 muA
** NormalTransistorNmos: 14.0921 muA
** NormalTransistorNmos: 14.0921 muA
** NormalTransistorNmos: 44.4981 muA
** NormalTransistorNmos: 44.4971 muA
** NormalTransistorPmos: -44.4989 muA
** NormalTransistorPmos: -44.4979 muA
** DiodeTransistorNmos: 43.7331 muA
** DiodeTransistorNmos: 43.7321 muA
** NormalTransistorPmos: -43.7339 muA
** NormalTransistorPmos: -43.7349 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -73.6119 muA


** Expected Voltages: 
** ibias: 0.576001  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 0.662001  V
** inSourceTransconductanceComplementarySecondStage: 4.15401  V
** innerComplementarySecondStage: 1.30001  V
** out: 2.5  V
** out1FirstStage: 4.15401  V
** out2FirstStage: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.51101  V
** innerTransistorStack2Load1: 4.51101  V
** sourceTransconductance: 1.82701  V
** innerStageBias: 0.570001  V
** innerTransconductance: 4.55801  V
** inner: 4.55601  V


.END