** Name: SimpleOpAmp117

.MACRO SimpleOpAmp117 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=3e-6 W=12e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=3e-6 W=30e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=7e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=2e-6 W=45e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=72e-6
mNormalTransistorNmos8 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=3e-6 W=231e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=8e-6
mNormalTransistorNmos10 sourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=587e-6
mNormalTransistorNmos11 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=567e-6
mNormalTransistorNmos12 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=3e-6 W=231e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=6e-6 W=466e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=6e-6 W=466e-6
mNormalTransistorPmos15 out inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=2e-6 W=159e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=104e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourcePmos sourcePmos pmos4 L=2e-6 W=45e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp117

** Expected Performance Values: 
** Gain: 97 dB
** Power consumption: 2.18001 mW
** Area: 11914 (mu_m)^2
** Transit frequency: 31 MHz
** Transit frequency with error factor: 30.9996 MHz
** Slew rate: 36.8027 V/mu_s
** Phase margin: 72.1927°
** CMRR: 138 dB
** VoutMax: 4.07001 V
** VoutMin: 0.600001 V
** VcmMax: 3.76001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 5.25301 muA
** NormalTransistorNmos: 48.0381 muA
** NormalTransistorPmos: -76.8199 muA
** NormalTransistorNmos: 147.926 muA
** NormalTransistorNmos: 147.926 muA
** DiodeTransistorPmos: -147.925 muA
** NormalTransistorPmos: -147.925 muA
** NormalTransistorPmos: -147.925 muA
** NormalTransistorNmos: 372.673 muA
** NormalTransistorNmos: 372.672 muA
** NormalTransistorNmos: 147.927 muA
** NormalTransistorNmos: 147.927 muA
** DiodeTransistorNmos: 76.8191 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -5.25399 muA
** DiodeTransistorPmos: -48.0389 muA


** Expected Voltages: 
** ibias: 1.13401  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.39401  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 3.98001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.579001  V
** innerTransistorStack2Load2: 4.28001  V
** out1: 3.82701  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END