** Name: SimpleOpAmp46

.MACRO SimpleOpAmp46 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=37e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=37e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=5e-6 W=12e-6
mDiodeTransistorPmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=152e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=2e-6 W=202e-6
mNormalTransistorNmos6 out inputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=244e-6
mNormalTransistorNmos7 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=244e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=395e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=395e-6
mNormalTransistorPmos10 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=5e-6 W=83e-6
mNormalTransistorPmos11 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=2e-6 W=202e-6
mNormalTransistorPmos12 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=152e-6
mNormalTransistorPmos13 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=4e-6 W=577e-6
mNormalTransistorPmos14 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=4e-6 W=577e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=5e-6 W=594e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp46

** Expected Performance Values: 
** Gain: 79 dB
** Power consumption: 8.01501 mW
** Area: 10829 (mu_m)^2
** Transit frequency: 25.3941 MHz
** Transit frequency with error factor: 25.3942 MHz
** Slew rate: 49.8914 V/mu_s
** Phase margin: 87.6626°
** CMRR: 127 dB
** VoutMax: 3.30001 V
** VoutMin: 0.710001 V
** VcmMax: 3.64001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -70.4729 muA
** NormalTransistorNmos: 504.076 muA
** NormalTransistorNmos: 756.283 muA
** NormalTransistorNmos: 504.076 muA
** NormalTransistorNmos: 756.283 muA
** DiodeTransistorPmos: -504.075 muA
** DiodeTransistorPmos: -504.076 muA
** NormalTransistorPmos: -504.075 muA
** NormalTransistorPmos: -504.076 muA
** NormalTransistorPmos: -504.415 muA
** NormalTransistorPmos: -252.207 muA
** NormalTransistorPmos: -252.207 muA
** DiodeTransistorNmos: 70.4721 muA
** DiodeTransistorNmos: 70.4721 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.95101  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.11001  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 3.82401  V
** innerTransistorStack2Load2: 3.81901  V
** out1: 2.72901  V
** sourceGCC1: 0.548001  V
** sourceGCC2: 0.548001  V
** sourceTransconductance: 3.37601  V


.END