** Name: SimpleOpAmp48

.MACRO SimpleOpAmp48 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=14e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=112e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=10e-6 W=28e-6
mDiodeTransistorPmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=18e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=1e-6 W=18e-6
mNormalTransistorNmos6 out inputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=18e-6
mNormalTransistorNmos7 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=18e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=272e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=272e-6
mNormalTransistorPmos10 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=10e-6 W=295e-6
mNormalTransistorPmos11 out FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=1e-6 W=18e-6
mNormalTransistorPmos12 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=18e-6
mNormalTransistorPmos13 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=269e-6
mNormalTransistorPmos14 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=269e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=10e-6 W=598e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp48

** Expected Performance Values: 
** Gain: 81 dB
** Power consumption: 3.24501 mW
** Area: 11232 (mu_m)^2
** Transit frequency: 23.0011 MHz
** Transit frequency with error factor: 23.0006 MHz
** Slew rate: 18.481 V/mu_s
** Phase margin: 85.9437°
** CMRR: 124 dB
** VoutMax: 3.05001 V
** VoutMin: 1 V
** VcmMax: 3.84001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -106.659 muA
** NormalTransistorNmos: 152.329 muA
** NormalTransistorNmos: 261.136 muA
** NormalTransistorNmos: 152.325 muA
** NormalTransistorNmos: 261.13 muA
** DiodeTransistorPmos: -152.326 muA
** NormalTransistorPmos: -152.325 muA
** NormalTransistorPmos: -152.324 muA
** DiodeTransistorPmos: -152.325 muA
** NormalTransistorPmos: -217.611 muA
** NormalTransistorPmos: -108.805 muA
** NormalTransistorPmos: -108.805 muA
** DiodeTransistorNmos: 106.66 muA
** DiodeTransistorNmos: 106.661 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.98701  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.38301  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 3.74501  V
** innerTransistorStack1Load2: 3.73901  V
** out1: 2.49001  V
** sourceGCC1: 0.533001  V
** sourceGCC2: 0.533001  V
** sourceTransconductance: 3.21401  V


.END